US08304036B2
6.25 g (20.7 mmol) of 2-(4-ethoxy-2,3-difluorophenyl)selenophene are initially introduced in 50 ml of diethyl ether, and 16.9 ml (26.9 mmol, 15% soln. in hexane) of n-BuLi are metered in rapidly. The mixture is heated under reflux for 25 min and subsequently cooled to −70° C. 7.0 ml (0.11 mol) of methyl iodide are added in one portion, and the mixture is warmed to RT and stirred for 22 h. Sat. ammonium chloride soln. and conc. ammonia soln. are added, and the batch is stirred vigorously for a few minutes. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with 2 N hydrochloric acid and sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:EtOAc=20:1→10:1→5:1). The further purification is carried out by recrystallisation from n-heptane; 2-(4-ethoxy-2,3-difluorophenyl)-5-methylselenophene is obtained as a colourless solid (m.p. 76° C.).

reactant | 2-(4-ethoxy-2,3-difluorophenyl)selenophene | 20.7 mmol, 6.25 g | C(C)OC1=C(C(=C(C=C1)C=1[Se]C=CC1)F)F | C12H10F2OSe
reactant | n-BuLi | 26.9 mmol, 16.9 ml | [Li]CCCC
reactant | methyl iodide | 0.11 mol, 7.0 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(4-ethoxy-2,3-difluorophenyl)-5-methylselenophene | C(C)OC1=C(C(=C(C=C1)C=1[Se]C(=CC1)C)F)F | C13H12F2OSe
